US06004992
With stirring, 7.5 g (0.1 mol) of glycine with 6.2 g (0.075 mol) of anhydrous sodium acetate and 18.6 g (0.15 mol) of p-fluorobenzaldehyde in 60 ml of acetic anhydride are heated to 100° C. After 2 hours, the reaction is cooled and poured into water. The resulting precipitate is filtered off with suction and dried under reduced pressure. 12.1 g (59% of theory) of 2-methyl-4-(4-fluorobenzylidene)-oxazol-5-one of mp. 156° C. are obtained.

reactant | glycine | 0.1 mol, 7.5 g | NCC(=O)O | C2H5NO2
reactant | sodium acetate | 0.075 mol, 6.2 g | C(C)(=O)[O-].[Na+]
reactant | p-fluorobenzaldehyde | 0.15 mol, 18.6 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | water | O | H2O
solvent | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyl-4-(4-fluorobenzylidene)-oxazol-5-one | 12.1 g, 59% | CC=1OC(C(N1)=CC1=CC=C(C=C1)F)=O | C11H8FNO2
